US08440651B2
1-(4-((2-(5-fluoro-1H-indol-4-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperidin-1-yl)ethanone 148
1-(4-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperidin-1-yl)ethanone (30 mg) was reacted with 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole via General Procedure A to produce 13.7 mg of 148 following reverse phase HPLC purification. MS (Q1) 489.2 (M)+

reactant | 1-(4-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperidin-1-yl)ethanone | 30 mg | ClC=1N=C(C2=C(N1)C=CC(=N2)CC2CCN(CC2)C(C)=O)N2CCOCC2 | C19H24ClN5O2
reactant | 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | [Si](C)(C)(C(C)(C)C)N1C=CC2=C(C(=CC=C12)F)B1OC(C(O1)(C)C)(C)C | C20H31BFNO2Si
product | 1-(4-((2-(5-fluoro-1H-indol-4-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperidin-1-yl)ethanone | FC=1C(=C2C=CNC2=CC1)C=1N=C(C2=C(N1)C=CC(=N2)CC2CCN(CC2)C(C)=O)N2CCOCC2 | C27H29FN6O2
